US08609644B2
(E) 3-(2-Aminoethoxyimino)-6α-methoxymethylandrostan-17-one hydrochloride (I-aq)
Prepared in 33% yield as described in Example 1 starting from 6α-methoxymethylandrostane-3,17-dione (II-ap, Prepn. 16) and 2-aminoethoxyamine dihydrochloride. The crude product was crystallized from Et2O/EtOAc. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.82 (bb, 3H), 4.06 (m, 2H), 3.22 (m, 2H), 3.20 (s, 3H), 3.05 (m, 1H), 3.02 (m, 2H), 2.45-0.60 (m, 20H), 0.89 (s, 3H), 0.78 (s, 3H).

reactant | 6α-methoxymethylandrostane-3,17-dione | COC[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H32O3
reactant | 2-aminoethoxyamine dihydrochloride | Cl.Cl.NCCON
product | 3-(2-Aminoethoxyimino)-6α-methoxymethylandrostan-17-one hydrochloride | 33% yield | Cl.NCCON=C1CC2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)COC | InChI=1S/C23H38N2O3.ClH/c1-22-8-6-16(25-28-11-10-24)13-20(22)15(14-27-3)12-17-18-4-5-21(26)23(18,2)9-7-19(17)22;/h15,17-20H,4-14,24H2,1-3H3;1H/t15-,17+,18+,19+,20?,22-,23+;/m1./s1
